US05635510
36A.1 Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid morpholine-amide hydrochloride
Prepare by the method of example 66.4 using 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid morpholine-amide (2.34 g, 3.3 mmol) and dichloromethane saturated with hydrochloric acid (100 mL) to give the title compound: Rf =0.58 (silica gel, 10% methanol/dichloromethane).

reactant | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid morpholine-amide | 3.3 mmol, 2.34 g | N1(CCOCC1)C(=O)N.ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid morpholine-amide hydrochloride | Cl.N1(CCOCC1)C(=O)N.ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | InChI=1S/C34H38Cl2N2O6.C5H10N2O2.ClH/c1-42-28-19-23(20-29(43-2)30(28)44-3)31(39)38-18-12-33(22-38,25-9-10-26(35)27(36)21-25)11-15-37-16-13-34(14-17-37,32(40)41)24-7-5-4-6-8-24;6-5(8)7-1-3-9-4-2-7;/h4-10,19-21H,11-18,22H2,1-3H3,(H,40,41);1-4H2,(H2,6,8);1H
